US05278314
5-Phenylthio-2-[2-hydroxy-3-tert-butyl-5-(β-octyloxycarbonylethyl)phenyl]-2H-benzotriazole
Likewise, to a 250 mL round-bottomed flask equipped with a magnetic stirrer, nitrogen inlet, condenser, and a Dean-Stark trap are charged 4.3 g (0.0096 mol) of 3-(5-phenylthio-2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamic acid, 3.4 g (0.026 mol) of Exxel 8, an isomeric mixture of octanols available from Exxon Chemicals, 70 mg of p-toluenesulfonic acid, and 20 mL of xylene. The mixture is refluxed 3.5 hours, is cooled to room temperature, and a portion of ethyl acetate is added. The solution is washed once with water, twice with saturated sodium bicarbonate solution, and once with brine. After drying over anhydrous magnesium sulfate, the solvent is removed under reduced pressure to afford 5.17 g (96% yield) of the title compound as a viscous yellow oil. Analysis by nmr (CDCl3) is consistent with the structure of the title compound.

reactant | 3-(5-phenylthio-2H-benzotriazol-2-yl)-5-tert-butyl-4-hydroxyhydrocinnamic acid | 0.0096 mol, 4.3 g | C1(=CC=CC=C1)SC1=CC=2C(=NN(N2)C=2C=C(CCC(=O)O)C=C(C2O)C(C)(C)C)C=C1 | C25H25N3O3S
reactant | p-toluenesulfonic acid | 70 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | xylene | 20 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Phenylthio-2-[2-hydroxy-3-tert-butyl-5-(β-octyloxycarbonylethyl)phenyl]-2H-benzotriazole | 5.17 g, 96% yield | C1(=CC=CC=C1)SC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)CCC(=O)OCCCCCCCC)C(C)(C)C)O)C=C1 | C33H41N3O3S
